US07687533B2
5-amino-1-[2,6-dichloro-4-(trifluoromethoxy)phenyl]-1H-pyrazole-3-carbonitrile
To sulphuric acid (18M, 54 ml) was added sodium nitrite (13.9 g, 201.2 mmol) and the solution was stirred at 15° C. for 1 h. To the solution was added acetic acid (200 ml), followed by 2,6-dichloro-4-(trifluoromethoxy)aniline (45.0 g, 182.9 mmol) in acetic acid (90 ml), ensuring the temperature of the solution did not rise above 20° C. After addition was complete, the mixture was heated at 50° C. for 1 h, cooled to room temperature and added dropwise to a solution of ethyl 2,3-dicyanopropanoate (Hainzl, D.; Cole, L. M.; Casida, J. E. Chemical Research in Toxicology (1998), 11(12), 1529-1535, 27.8 g, 182.9 mmol) in acetic acid (115 ml) and ice cold water (145 ml). The reaction mixture was then stirred overnight at room temperature. To the reaction mixture was added dichloromethane (500 ml) and the mixture was stirred for 10 min. The two phases were separated and the organic phase was washed with water (200 ml) and ammonia (0.88, 400 ml) was added dropwise, maintaining the temperature of the mixture below 10° C. This mixture was stirred overnight at room temperature and the organic phase was separated and concentrated in vacuo. The residue was re-crystallised from toluene/pentane [2:1] to give the titled compound (22.4 g).

reactant | sulphuric acid | 18M, 54 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 201.2 mmol, 13.9 g | N(=O)[O-].[Na+]
reactant | 2,6-dichloro-4-(trifluoromethoxy)aniline | 182.9 mmol, 45.0 g | ClC1=C(N)C(=CC(=C1)OC(F)(F)F)Cl | C7H4Cl2F3NO
reactant | ethyl 2,3-dicyanopropanoate | 182.9 mmol, 27.8 g | C(#N)C(C(=O)OCC)CC#N | C7H8N2O2
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 115 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethoxy)phenyl]-1H-pyrazole-3-carbonitrile | 22.4 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)OC(F)(F)F)Cl)C#N | C11H5Cl2F3N4O
